US07064124B2
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid
10% Pd—C (50 mg) was added to an ethanol (10 ml) and dioxane (10 ml) mixed solution of 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (150 mg, 0.3554 mmol) and the resulting solution was stirred at room temperature for 16 hours in a hydrogen stream. The reaction solution was filtered, the filtrate was concentrated under reduced pressure, and the residue was washed with hexane to obtain the titled compound (97 mg, 0.2679 mmol, 75%).

reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 0.3554 mmol, 150 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 50 mg | [Pd] | Pd
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid | 0.2679 mmol, 97 mg, 75% | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)O)C(=C(C1OC)OC)OC)C | C19H22O7
